US07968720B2
(1R,5S)-7-{4-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-6-carboxylic acid cyclopropyl-[5-(3-methoxy-propyl)-2-methyl-benzyl]-amide
This compound was synthesized from (1R,5S)-7-{4-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6,9-tricarboxylic acid 3,9-di-tert-butyl ester and cyclopropyl-[5-(3-methoxy-propyl)-2-methyl-benzyl]-amine as for compound L1, and then Example 1. MS (ESI, Q+) m/z 678.2.

reactant | (1R,5S)-7-{4-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6,9-tricarboxylic acid 3,9-di-tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC(=C([C@@H](C1)N2C(=O)OC(C)(C)C)C(=O)O)C2=CC=C(C=C2)OCCOC2=C(C=C(C=C2Cl)C)Cl | C33H40Cl2N2O8
reactant | cyclopropyl-[5-(3-methoxy-propyl)-2-methyl-benzyl]-amine | C1(CC1)NCC1=C(C=CC(=C1)CCCOC)C | C15H23NO
product | (1R,5S)-7-{4-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-6-carboxylic acid cyclopropyl-[5-(3-methoxy-propyl)-2-methyl-benzyl]-amide | C1(CC1)N(C(=O)C=1[C@H]2CNC[C@@H](CC1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)N2)CC2=C(C=CC(=C2)CCCOC)C | C38H45Cl2N3O4
